US08058299B2
2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-methyl-propionic acid ethyl ester from above (1.15 g, 4.0 mmol) was dissolved in 50 mL of ethanol and 10% palladium on carbon (600 mg) was added. The mixture was hydrogenated at 50 psi for 20 hrs. The mixture was filtered and solvents were evaporated to give 2-methyl-2-piperidin-4-yl-propionic acid ethyl ester (760 mg) as an oil. The NMR spectrum obtained on the sample is compatible with its structure. LRMS calcd for C11H21NO2 (m/e) 199.29, obsd 200.1 (M+H).

reactant | 2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1CCN(CC1)CC1=CC=CC=C1)=O | C18H25NO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 600 mg | [Pd] | Pd
product | 2-methyl-2-piperidin-4-yl-propionic acid ethyl ester | 760 mg | C(C)OC(C(C)(C1CCNCC1)C)=O | C11H21NO2
